US06211199B1
90.1 Synthesis of 1-(2-methoxy-5-fluorobenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 59.1 using 2-methoxy-5-fluorobenzoic acid and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-(2-hydroxyethyl)-3-phenylpyrrolidine (R,R)-di-p-anisoyltartaric acid salt) to give the title compound.

reactant | 2-methoxy-5-fluorobenzoic acid | COC1=C(C(=O)O)C=C(C=C1)F | C8H7FO3
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2(CNCC2)C2=CC=CC=C2
product | 1-(2-methoxy-5-fluorobenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)F | C36H44FN5O3
